US05264454
To a solution of 3-tert-butyloxycarbonylamino-4-(2-methylphenyl)-7,8-dihydro-6H-cyclopenta[g][1]benzopyran-2-one (2.05 g) in dichloromethane (20 ml) was added trifluoroacetic acid (10 ml) dropwise with ice-cooling. The mixture was stirred under ice-cooling for 1 hour, after which the solvent was distilled off. The residue was diluted with water, neutralized with saturated aqueous solution of NaHCO3 and extracted with chloroform. The extract was washed with water and dried (MgSO4) and the solvent was distilled off to give crystals of 3-amino-4-(2-methylphenyl)-7,8-dihydro-6H-cyclopenta[g][1]-benzopyran-2-one (1.5 g, 98.4%). Recrystallization from ethanol-dichloromethane gave colorless prisms, m.p. 275°-276° C.

reactant | 3-tert-butyloxycarbonylamino-4-(2-methylphenyl)-7,8-dihydro-6H-cyclopenta[g][1]benzopyran-2-one | 2.05 g | C(C)(C)(C)OC(=O)NC=1C(OC2=C(C1C1=C(C=CC=C1)C)C=C1C(=C2)CCC1)=O | C24H25NO4
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-amino-4-(2-methylphenyl)-7,8-dihydro-6H-cyclopenta[g][1]-benzopyran-2-one | 1.5 g, 98.4% | NC=1C(OC2=C(C1C1=C(C=CC=C1)C)C=C1C(=C2)CCC1)=O | C19H17NO2
